Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.84653525885
[C:1][C@@:2]1([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]1([H:10])[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[O:8][C:9]([H:10])[H:11],0.2285654880889999
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-2.14929717333
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:5]([H:6])([H:7])[H:8].[H:1][C:2]([H:3])=[C:4]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.31068611474
[H:1][O:2][C:3]=[C:4]=[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]#[C:4],4.99308519626
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:8][C:9]([H:10])[H:11].[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],-4.1535762343
[H:11].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17],-4.84136242176
[H:10].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]#[C:11][H:12]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11][H:12],-1.8803669769
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],4.3120016812
[O:1]=[C:2]([O:3][C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1]=[C:2][C:6]([H:7])([H:8])[H:9].[O:3]=[C:4][H:5],0.8610854592489999
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:8]([H:9])([H:10])[H:11].[H:7],2.33463648486
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[C:5]([H:6])([H:7])[H:8].[O:1][C:2]#[C:3][O:4],3.18562832379
[H:11].[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7](=[C:8]([H:9])[H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.81637714435
[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])=[C:4].[O:5]=[C:6]([H:7])[C:8]([H:9])[H:10],2.4756511427400003
[C:1]#[C:2][C:4]([O:5][H:6])[C:7](=[C:8])[H:9].[H:3]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][H:6])[C:7](=[C:8])[H:9],-2.28172426
[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],4.27939238651
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.11245592348
[O:1]=[C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:10]([H:11])([H:12])[H:13],4.89289743581
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3][C:4][H:5],8.61748524
[C:7]([H:8])([H:9])=[C:10][O:11][H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-2.10618041864
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][C@@:3]1([H:4])[O:5][C:6]=[C:7]([H:8])[C:9]1([H:10])[H:11],0.63852837389
[C:1]=[C:2]([C:3][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[C:4][H:5]>>[C:1]=[C:2]([C:3](=[C:4][H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.967100118080001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13]>>[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13].[O:1]=[C:2]([H:3])[H:4],0.8957379382899999
[H:1][C:2]([H:3])[H:4].[H:5]>>[H:1][C:2]([H:3])([H:4])[H:5],-4.743194636559999
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15].[O:1],4.10875203453
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12]>>[H:12].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]#[C:11],5.97974889439
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([H:7])[H:8].[H:1]/[C:2]([C:3]=[O:4])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],0.956978326169
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:2]([H:3])([C:8]([H:9])=[O:11])([H:10])[H:12].[O:1]([C:4]([H:5])[H:6])[H:7],0.5058856079590001
[H:14].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57673936802
